US07109392B1
The bacterial cells were pelleted by centrifugation and resuspended at a concentration of 108 cells/mL in liquid Murashige and Skoog Minimal Organic medium (GIBCO; Cat. No. 510–3118) containing 100 μM acetosyringone.
After four weeks, the segments were transferred to BS-48 regeneration medium containing 200 mg/L carbenicillin and 25 mg/L kanamycin.

reactant | carbenicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)C(C=3C=CC=CC3)C(=O)O)C(=O)O)C | C17H18N2O6S
reactant | kanamycin | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CN)O)O)O)O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)N)O)N | C18H36N4O11
product | acetosyringone | CC(=O)C1=CC(=C(C(=C1)OC)O)OC | C10H12O4
